US07390923B2
3-(4-Cyano-3-fluorophenoxy)-2-hydroxy-2-methyl-N-(2-methyl-4-nitrophenyl)propionamide was prepared as described in Example 1c starting from 2-fluoro-4-hydroxybenzonitrile and 2-methyloxirane-2-carboxylic acid (2-methyl-4-nitrophenyl)amide. The crude product was purified by flash chromatography (dichloromethane-1.3% methanol). 1H NMR (400 MHz, DMSO-d6): 1.46 (3H, s), 2.37 (3H, s), 4.13 (1H, d, J=10.1 Hz), 4.37 (1H, d, J=10.1 Hz), 6.51 (1H, s), 6.95-6.98 (1H, m), 7.17-7.21 (1H, m), 7.78-7.83 (1H, m), 8.05-8.12 (2H, m), 8.18 (1H, d, J=2.3 Hz), 9.57 (1H, s).

reactant | 2-fluoro-4-hydroxybenzonitrile | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | 2-methyloxirane-2-carboxylic acid (2-methyl-4-nitrophenyl)amide | CC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)C1(OC1)C | C11H12N2O4
product | 3-(4-Cyano-3-fluorophenoxy)-2-hydroxy-2-methyl-N-(2-methyl-4-nitrophenyl)propionamide | C(#N)C1=C(C=C(OCC(C(=O)NC2=C(C=C(C=C2)[N+](=O)[O-])C)(C)O)C=C1)F | C18H16FN3O5
